US05876938
3-Aminophenylboronic acid succinamic acid (PBA-X-CO2H).
PBA-XX-CO2H(6.3 g, 0.018 moles) was suspended in dry dioxane (60 mL). 1,3-Propanediol (1.4 g, 0.018 moles) was added, and the mixture was gently heated until all solid dissolves (about 10 minutes). The solvent was removed by rotary evaporation to leave a pale yellow syrup, which was co-evaporated twice with dioxane (30 mL each). The residue was then dissolved in dioxane (225 mL) and N-hydroxysuccinimide (2.3 g, 0.20 moles) was added, followed by N,N-dicyclohexylcarbodiimide (4.1 g, 0.020 moles). The solution was stirred under an atmosphere of dry nitrogen for 6 hours at room temperature, during which time the white precipitate of N,N-dicyclohexylurea formed. The precipitate was filtered and washed with dioxane (50 mL). The combined filtrates were concentrated to about 30 mL. Dry diethyl ether (200 mL) was slowly added to the stirred concentrate, causing precipitation of a white solid. The mixture was chilled in an ice/water bath for 1 hour, then filtered. The solid was washed with dry ether (50 mL), and dried in vacuo. Yield: 8.0 g (91%); M.P. 111°-117° C. (open capillary, uncorrected). 1H NMR (300 MHz, DMSO-d6) δ 9.85 (singlet, 1H, ArNHCOR), 7.85 (singlet, 1H, ArH), 7.82 (triplet, J=5.7 Hz, 1H, CONHCH2), 7.64 (doublet, J=7.9 Hz, 1H, ArH), 7.29 (doublet, J=7.3 Hz, 1H, ArH), 7.22 (doublet of doublets, J=7.6 Hz, 1H, ArH), 4.07 (triplet, J=5.4 Hz, 4H, BOCH2CH2), 3.05-2.95 (multiplet, 2H, CONHCH2), 2.79 (singlet, 4H succinimidyl COCH2), 2.62 (triplet, J=7.3 Hz, 2H, CH2CO2.R), 2.50 (triplet, J=6.7 Hz, 2H, NHCOCH2), 2.36 (triplet, J=6.7 Hz, 2H, NHCOCH2, 1.50-1.41 (multiplet, 2H, NHCH2CH2), 1.97 (quintet, J=5.4 Hz 2H, BOCH2CH2), 1.61-1.51 (multiplet, 2H, CH2), 1.41-1.30 (multiplet, 4H, CH2). 13C NMR (75.5 MHz, DMSO-d6) δ 171.3, 170.6, 170.5, 169.2, 138.9, 128.1, 128.0, 124.3, 121.4, 61.5, 38.2, 31.7, 30.4, 30.1, 28.6, 26.8, 25.4, 23.9, 15.1. HPLC: Retention time of product, 18.2±0.1 minutes under the conditions described above.

reactant | 3-Aminophenylboronic acid | 0.018 moles, 6.3 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | 1,3-Propanediol | 0.018 moles, 1.4 g | C(CCO)O | C3H8O2
reactant | N-hydroxysuccinimide | 0.20 moles, 2.3 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N-dicyclohexylurea | C1(CCCCC1)N(C(=O)N)C1CCCCC1 | C13H24N2O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 225 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 3-Aminophenylboronic acid succinamic acid | C(CCC(=O)N)(=O)O.NC=1C=C(C=CC1)B(O)O | InChI=1S/C6H8BNO2.C4H7NO3/c8-6-3-1-2-5(4-6)7(9)10;5-3(6)1-2-4(7)8/h1-4,9-10H,8H2;1-2H2,(H2,5,6)(H,7,8)
